US06380230B1
A) 4-Cyclohexylbutyryl chloride
50 g of 4-cyclohexanebutyric acid are refluxed for 4 hours in 160 ml of thionyl chloride. After evaporation of the excess thionyl chloride, the expected product is distilled off. b.p.=70-80° C. at 400 Pa.

reactant | 4-cyclohexanebutyric acid | 50 g | C1CCC(CC1)CCCC(=O)O | C10H18O2
reactant | thionyl chloride | 160 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Cyclohexylbutyryl chloride | C1(CCCCC1)CCCC(=O)Cl | C10H17ClO
